US06124283
3-Methyl-4-morpholinobenzoic acid
To a solution of 3-methyl-4-morpholinobenzonitrile (1.0 g, 4.9 mmol) in glacial acetic acid (10 mL) was added a 20% aqueous hydrochloric acid solution (60 mL) and the reaction was heated at reflux for 35 h. The acetic acid was evaporated in vacuo and the remaining water solution was alkalized with 2 M aqueous sodium hydroxide solution to pH 8. The solution was washed, twice, with chloroform and the water phase was adjusted to pH 4 with a 2 M aqueous hydrochloric acid solution. The product was filtered off and dried in vacuo to afford 1.0 g (91% yield) of the title compound as white crystals: mp 220-221° C.; EIMS (70 eV) m/z (relative intensity) 221 (100, M+).

reactant | 3-methyl-4-morpholinobenzonitrile | 4.9 mmol, 1.0 g | CC=1C=C(C#N)C=CC1N1CCOCC1 | C12H14N2O
reactant | hydrochloric acid | 60 mL | Cl | ClH
reactant | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
product | 3-Methyl-4-morpholinobenzoic acid | 1.0 g, 91% yield | CC=1C=C(C(=O)O)C=CC1N1CCOCC1 | C12H15NO3
